Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Viagra / Lipitor
 
Attending: ___.
 
Chief Complaint:
BPH with LUTs
 
Major Surgical or Invasive Procedure:
TURP Bipolar

 
History of Present Illness:
Mr. ___ is a ___ yo M with history of BPH with poor stream 
and LUTS, who's symptoms were not improved with maximum medical 
managment (tamsulosin 0.8 mg daily and proscar 5 mg daily).  He 
is here for surgical managment of BPH with a bipolar TURP.
 
Past Medical History:
HLD, sleep apnea, urticaria, allergic rhinitis, lumbar spinal 
stenosis, colonic polyps, hx duodenal ulcer, insomnia.  s/p 
nasal septoplasty ___

ALLERGIES :  
Viagra caused flushing and dizziness.  
Lipitor caused muscle pain

 
Social History:
___
Family History:
Father died at ___ of Alzheimer's, PUD
Mother died at ___ of CVA
Uncle with CVA in his ___

 
Physical Exam:
AVSS
NAD
Unlabored breathing
Abdomen soft, ND, NTTP 
Extremities WWP, no edema
 
Pertinent Results:
None this admission
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service after 
bipolar transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. He patient received ___ antibiotic 
prophylaxis. The patient's postoperative course was 
uncomplicated. He received continuous bladder irrigation 
overnight. On POD1 the CBI was discontinued and Foley catheter 
was removed with an active vodiding trial.  Post void residuals 
were checked (450/150, 700/30). His urine was clear and and 
without clots. He remained a-febrile throughout his hospital 
stay.  At discharge, the patient had pain well controlled with 
oral pain medications, was tolerating regular diet, ambulating 
without assistance, and voiding without difficulty.  He was 
given oral pain medications on discharge along with explicit 
instructions to follow up in clinic with Dr. ___.

 
Medications on Admission:
Flomax 0.8 mg
Proscar 5 mg
Trazodone 50 mg qhs
Ambien prn
 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
3. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every six (6) hours Disp #*10 Tablet Refills:*0
4. Tamsulosin 0.4 mg PO HS 
5. traZODONE 50 mg PO HS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-No vigorous physical activity for 2 weeks.
 
-Expect to see occasional blood in your urine and to experience 
urgency and frequecy over the next month.
 
-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4.  
Replace Tylenol with narcotic pain medication.  Max daily 
Tylenol dose is 4gm, note that narcotic pain medication also 
contains Tylenol (acetaminophen)
 
-Do not drive or drink alcohol while taking narcotics
 
-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops.
 
-Resume all of your home medications, except hold NSAID 
(aspirin,  and ibuprofen containing products such as advil & 
motrin,) until you see your urologist in follow-up
 
-Resume all of your home medications, but please avoid 
aspirin/advil for one week.  
 
-If you have fevers > 101.5 F, vomiting, severe abdominal pain, 
or inability to urinate, call your doctor or go to the nearest 
emergency room. 

resume regular home diet
remember to drink plenty of fluids to stay hydrated
remember to take stool softener and avoid constipating foods for 
___ weeks!
 
-Call Dr. ___ office  ___ 
follow-up AND if you have any questions (page Dr. ___ 
___ at ___. 

 
Followup Instructions:
___